US08541429B2
Step 4. 2-methoxy-5,5-dimethyl-cyclohex-2-enone
A solution of 4,4-dimethyl-7-oxa-bicyclo[4.1.0]heptan-2-one (44.0 g, 0.31 mol) in methanol (150 mL) was added to a solution of 85% potassium hydroxide (20.7 g, 0.31 mol) in methanol (450 mL) at room temperature. The mixture was kept at this temperature for 20 hours and was then heated to reflux for 30 minutes. After cooling, the solution was diluted with water (1.2 L) and extracted with ethyl ether (350 mL×5). The organic extracts were collected, washed with brine, dried on Na2SO4 and evaporated under vacuum to remove most of the solvent. The crude material was purified by distillation to obtain pure the title compound (32.8 g, 68% yield) as an oil.

reactant | 4,4-dimethyl-7-oxa-bicyclo[4.1.0]heptan-2-one | 0.31 mol, 44.0 g | CC1(CC(C2OC2C1)=O)C | C8H12O2
reactant | potassium hydroxide | 0.31 mol, 20.7 g | [OH-].[K+]
reactant | methanol | 150 mL | CO | CH4O
reactant | methanol | 450 mL | CO | CH4O
solvent | water | 1.2 L | O | H2O
product | 2-methoxy-5,5-dimethyl-cyclohex-2-enone | 32.8 g, 68% yield | COC=1C(CC(CC1)(C)C)=O | C9H14O2
